US07829560B2
N-(4-Cyanomethoxynaphthalen-1-yl)-3-fluoro-5-(4-methylpiperidin-1-yl)-benzamide (54 mg, 129 mmol), trimethylsilylazide (0.1 ml, 760 mmol) and dibutyltin oxide (5 mg) are heated to reflux in anhydrous toluene (3 ml) for 5 hours. After cooling to room temperature methanol (5 ml) is then added and the mixture stirred at room temperature for 30 min. The mixture is then evaporated to dryness and the residue recrystallized from ethyl acetate/hexanes to give 3-fluoro-5-(4-methylpiperidin-1-yl)-N-[4-(2H-tetrazol-5-ylmethoxy)-naphthalen-1-yl]-benzamide as a grey powder (22 mg). 1H NMR 300 MHz (DMSO-d6) 10.3 (s, 1H), 8.32 (dd, 1H, J=8.7 and 2.7 Hz), 7.87 (d, 1H, J=9.3 Hz), 7.54-7.62 (m, 2H), 7.42-7.5 (m, 2H), 7.17 (dd, 1H, J=15.9 and 9.3 Hz), 6.97 (d, 1H, J=13.2 Hz), 5.7 (s, 2H), 3.85 (d, 2H, J=19.8 Hz), 2.77 (m, 2H), 1.5-1.78 (m, 3H), 1.25 (m, 2H), 0.95 (d, 3H, J=6.6 Hz).

reactant | N-(4-Cyanomethoxynaphthalen-1-yl)-3-fluoro-5-(4-methylpiperidin-1-yl)-benzamide | 129 mmol, 54 mg | C(#N)COC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCC(CC1)C)F)=O | C25H24FN3O2
reactant | trimethylsilylazide | 760 mmol, 0.1 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 5 mg | C(CCC)[Sn](CCCC)=O
reactant | methanol | 5 ml | CO | CH4O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-5-(4-methylpiperidin-1-yl)-N-[4-(2H-tetrazol-5-ylmethoxy)-naphthalen-1-yl]-benzamide | 22 mg | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCC=2N=NNN2)C=C(C1)N1CCC(CC1)C | C25H25FN6O2
